US05463122
A mixture of 2-chloro-5-nitrobenzoic acid (15.0 g, 74.0 mmol) in 200 mL of dichloromethane was reacted at 24° C. with oxalyl chloride (16.2 mL, 186.0 mmol) and a catalytic amount of dimethylformamide. After 3 hours, the solvent was removed in vacuo, and the residue was redissolved in 200 mL of fresh dichloromethane. The solution was cooled to 0° C., and ammonia was bubbled into the solution for 5 minutes, whereupon the product precipitated from solution. The product was collected by filtration to yield 6.8 g of 2-chloro-5-nitrobenzamide, mp 174°-175° C.; NMR (DMSO-d6): δ8.2 (m, 2H), 8.2 (s, 1H), 7.8-7.9 (m, 2H).

reactant | 2-chloro-5-nitrobenzoic acid | 74.0 mmol, 15.0 g | ClC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | oxalyl chloride | 186.0 mmol, 16.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-chloro-5-nitrobenzamide | 6.8 g | ClC1=C(C(=O)N)C=C(C=C1)[N+](=O)[O-] | C7H5ClN2O3
